US08084559B2
There were added 6.92 g (25.05 mmol) of 6,6,9,9-tetra methyl-6,7,8,9-tetrahydrobenzofluorene and 11.04 g (50.09 mmol) of 2,6-di-tert-butylcresol to 123 mL of nitromethane, and the resultant mixture was stirred at 0° C., thereby obtaining a slurry. To the slurry, 7.5 mL of a solution of 5.01 g (37.57 mmol) of aluminum chloride in nitromethane was added dropwise at 0° C., and the mixture was stirred at 0° C. for 1.5 hour. The formed precipitate was filtered off, and the filtrate was subjected to extraction with each 42 mL of hexane seven times. The obtained hexane solution was dried over magnesium sulfate, and the dried solution was filtered to obtain a filtrate, and then, the filtrated was concentrated. The concentrated filtrate was treated according to silica gel-column chromatography to obtain yellow oil. Ethanol was added to the oil to form a precipitate, and the precipitate was filter off. The precipitate was vacuum-dried, thereby obtaining 2.89 g (yield: 34.7%) of 2-tert-butyl-6,6,9,9-tetramethyl-6,7,8,9-tetrahydrobenzofluorene as a white solid.

reactant | 6,6,9,9-tetra methyl-6,7,8,9-tetrahydrobenzofluorene | 25.05 mmol, 6.92 g | CC1(C2=C3CCC(C=C3CC2=C2C(=C1)C=CC=C2)(C)C)C | C21H24
reactant | 2,6-di-tert-butylcresol | 50.09 mmol, 11.04 g | C(C)(C)(C)C1(CC=CC(=C1O)C(C)(C)C)C | C15H26O
reactant | aluminum chloride | 37.57 mmol, 5.01 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | Ethanol | C(C)O | C2H6O
solvent | nitromethane | [N+](=O)([O-])C | CH3NO2
solvent | nitromethane | 123 mL | [N+](=O)([O-])C | CH3NO2
product | 2-tert-butyl-6,6,9,9-tetramethyl-6,7,8,9-tetrahydrobenzofluorene | 2.89 g, yield: 34.7% | C(C)(C)(C)C1=CC=2C(=CC(C3=C4CCC(C=C4CC23)(C)C)(C)C)C=C1 | C25H32
